US08357711B2
4-([[3-Chloro-4-(trifluoromethyl)benzyl]amino]carbonyl)benzenesulfonyl chloride
The title compound was prepared from 4-sulphobenzoic acid monopotassium salt and 3-chloro-4-(trifluoromethyl)benzylamine in 45% yield following the procedure described in Preparation 1. The thionyl chloride solution was heated at reflux for 3 hours.

reactant | 4-sulphobenzoic acid monopotassium salt | [K+].S(=O)(=O)(O)C1=CC=C(C(=O)[O-])C=C1
reactant | 3-chloro-4-(trifluoromethyl)benzylamine | ClC=1C=C(CN)C=CC1C(F)(F)F | C8H7ClF3N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-([[3-Chloro-4-(trifluoromethyl)benzyl]amino]carbonyl)benzenesulfonyl chloride | 45% yield | ClC=1C=C(CNC(=O)C2=CC=C(C=C2)S(=O)(=O)Cl)C=CC1C(F)(F)F | C15H10Cl2F3NO3S
